US05306723
6-[2-(4-Hydroxy-4-phenylpiperidino) -1-hydroxyethyl]-2(3H)-benzoxazolone
By the procedures of Examples 8 and 2, 6-(2-chloroacetyl)-2(1H)-benzoxazolone and 4-hydroxy-4-phenylpiperidine were converted to present title product in 25% yield after recrystallization from ethanol/ether; m.p. 175°-177° C. NMR (methanol-d4) 7.51 (dd, J=1.5, 8.5 Hz, 2H), 7.35-7.29 (m, 3H), 7.24-7.19 (m, 2H), 7.05 (d, J=8 Hz, 1H), 4.94-4.90 (m, 1H--becomes dd J=3, 8.5 Hz with D2O wash), 2.96-2.90 (m, 2H), 2.80-2.57 (m, 4H), 2.19 (dq, J=4.5, 13 Hz, 2H), 1.74 (br d, J=14.5 Hz, 2H). IR(KBr) 3320, 3115, 2920, 2830, 1785, 1750.

reactant | 6-(2-chloroacetyl)-2(1H)-benzoxazolone | ClCC(=O)C1=CC2=C(NC(O2)=O)C=C1 | C9H6ClNO3
reactant | 4-hydroxy-4-phenylpiperidine | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
product | 6-[2-(4-Hydroxy-4-phenylpiperidino) -1-hydroxyethyl]-2(3H)-benzoxazolone | 25% yield | OC1(CCN(CC1)CC(O)C1=CC2=C(NC(O2)=O)C=C1)C1=CC=CC=C1 | C20H22N2O4
